US05466697
To a suspension of 8-(3-chlorophenyl)-1,6-naphthyridin-5-one (128 mg, 0.5 mmoles), thiophenemethanol (0.08 ml, 0.6 mmoles), and triphenylphosphine (197 mg, 0.75 mmoles) was added dropwise diisopropylazodicarboxylate (0.15 ml, 0.75 mmoles) under an atmosphere of nitrogen at 21° C. The reaction mixture was stirred overnight and concentrated under vacuum to give an oil. The oil was chromatographed with silica gel (eluting with 1:4 ethyl acetate/hexane) to give (after crystallization from methanol) 98 mg (56% yield) of the desired 6-(2-thienylmethyl)-8-(3-chlorophenyl)-1,6-naphthyridin-5-one as a white solid: mp 141.5°-145.0° C; 1H NMR (CDCl3, 300 MHz) δ5.41 (s, 2H), 6.97-7.56 (m, 9H), 8.78 (dd, 1H, J=8.1, 1.9), 8.93 (dd, 1H, J=4.5, 1.9); 13C NMR (75 MHz, CDCl3) δ161.56, 154.34, 151.68, 137.91, 136.93, 136.79, 134.14, 133.70, 130.04, 129.54, 128.26, 127.81, 127.77, 127.09, 126.65, 122.13, 121.91, 120.05, 46.85; IR (KBr) vmax 1643, 1612, 1591, 1564, 1552, 1483, 1441, 1429, 1415, 1377, 1358, 1302, 1207, 1174, 792, 763, 734, 715, 696, 601 cm-1 ; mass spectrum (EI), m/e 352. Anal. (C19H13ClN2OS) Calcd.: C, 64.68; H, 3.71; N, 7.94. Found: C, 64.45; H, 3.69; N, 8.00.

reactant | 8-(3-chlorophenyl)-1,6-naphthyridin-5-one | 0.5 mmoles, 128 mg | ClC=1C=C(C=CC1)C1=CNC(C=2C=CC=NC12)=O | C14H9ClN2O
reactant | thiophenemethanol | 0.6 mmoles, 0.08 ml | S1C(=CC=C1)CO | C5H6OS
reactant | triphenylphosphine | 0.75 mmoles, 197 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.75 mmoles, 0.15 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 6-(2-thienylmethyl)-8-(3-chlorophenyl)-1,6-naphthyridin-5-one | 98 mg, 56% yield | S1C(=CC=C1)CN1C(C=2C=CC=NC2C(=C1)C1=CC(=CC=C1)Cl)=O | C19H13ClN2OS
